US04871389
Preparation of 2,2-dimethyl-3-(1-[1H-imidazol-1-yl]ethyl)non-4-yne-3-ol
To a stirred solution of hex-1-yne (0.61 g, 7.5 mmol) in dry THF (30 ml) was added n-butyl lithium (3 ml of 2.6M, 7.5 mmol) at -78° C. under a nitrogen atmosphere. After 15 minutes, a solution of 2,2-dimethyl-4-(1H-imidazol-1-yl)-pentan-3-one (1.26 g, 7 mmol) in dry THF (30 ml) was added dropwise. Upon complete addition the mixture was allowed to warm to room temperature and stirred for 18 hours. The reaction mixture was then poured onto ice and extracted with ether (2×250 ml). The ethereal solution was washed with saturated brine solution then dried over anhydrous magnesium sulphate and the solvent removed. The resulting yellow oil was chromatographed (silica gel, petrol/diethyl ether elution) to give the product as a white solid (1.39 g, 76%), mp. 57-59% (Found C, 72.2; H, 10.1; N, 10.8. C16H26N2O requires C 73.3; H, 9.9; N, 10.7%); IR 2950, 1460, 1360, 1270, 1220, 1080 980, 920, 810, 730, 660 cm-1.

reactant | hex-1-yne | 7.5 mmol, 0.61 g | C#CCCCC | C6H10
reactant | n-butyl lithium | 7.5 mmol, 2.6M, 3 ml | C(CCC)[Li]
reactant | 2,2-dimethyl-4-(1H-imidazol-1-yl)-pentan-3-one | 7 mmol, 1.26 g | CC(C)(C(C(C)N1C=NC=C1)=O)C | C10H16N2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2,2-dimethyl-3-(1-[1H-imidazol-1-yl]ethyl)non-4-yne-3-ol | 1.39 g, 76% | CC(C)(C(C#CCCCC)(O)C(C)N1C=NC=C1)C | C16H26N2O
